US05292762
To the solution of 2-phenyl-1,3,4-thiadiazolin-5-one (3 g, 16.85 mmole) in dry acetone (30 ml) under nitrogen with magnetic stirring was added potassium carbonate (3 g, 22 mmole), followed by propargyl bromide (3 g, 80% in toluene, 20 mmole) at room temperature. The mixture was refluxed for one hour. The reaction mixture was cooled down to room temperature and the solid was filtered off by suction-filtration. The filtrate was diluted with ether (200 ml) and washed with water (2×50 ml) and brine. The organic layer was dried over sodium sulfate. After the drying agent was filtered off the filtrate was concentrated to about 5 ml. Hexane was added to precipitate out the product. The product was collected by suction-filtration and washed with a little hexane to afford 2 g of 2-phenyl-4-propargyl-1,3,4-thiadiazolin-5-one as a powder. m.p.=73°-75° C.

reactant | 2-phenyl-1,3,4-thiadiazolin-5-one | 16.85 mmole, 3 g | C1(=CC=CC=C1)C=1SC(NN1)=O | C8H6N2OS
reactant | potassium carbonate | 22 mmole, 3 g | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | 20 mmole, 3 g | C(C#C)Br | C3H3Br
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 2-phenyl-4-propargyl-1,3,4-thiadiazolin-5-one | 2 g | C1(=CC=CC=C1)C=1SC(N(N1)CC#C)=O | C11H8N2OS
